US07034052B2
To a solution of (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (180 mg, 0.4 mmol) in acetonitrile (2 mL) was added 2,2-dimethyl-propionyl chloride (0.064 mL, 0.5 mmol) at room temperature and kept for 24 hrs. The solution was extracted with ethyl acetate (15 mL) and sodium hydrogen carbonate (15 mL, sat). The organic layer was dried over MgSO4. Filtration and removal of solvent gave (1 R)-cyclopropanecarboxylic acid {2-[2-(2,2-dimethyl-propionyloxycarbamoyl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (90 mg, 42% yield): mp, 146–148° C.; 1H NMR (DMSO-d6) δ 0.87–0.89 (m, 4H, 2CH2), 1.19 (s, 9H, 3CH3), 1.30 (t, J=7 Hz, 3H, CH3), 1.76–1.82 (m, 1H, CH), 3.04 (d, J=8 Hz, 2H, CH2), 3.73 (s, 3H, CH3), 3.97–4.05 (m, 2H, CH2), 4.19 (d, J=18 Hz, 1H, NCHH), 4.58 (d, J=18 Hz, 1H, NCHH), 5.66 (t, J=8 Hz, 1H, NCH), 6.87–6.94 (m, 3H, Ar), 7.19 (d, J=8 Hz, 1H, Ar), 7.50 (d, J=8 Hz, 1H, Ar), 8.23 (d, J=8 Hz, 1H, Ar), 10.55 (s, 1H, NH), 11.82 (s, 1H, NH); 13C NMR (DMSO-d6) δ 7.77, 14.69, 15.46, 26.71, 34.63, 37.63, 46.61, 51.03, 55.46, 63.78, 111.91, 112.07, 116.82, 117.32, 117.51, 119.24, 131.24, 132.76, 136.96, 142.24, 147.92, 148.55, 166.66, 168.00, 171.71, 175.41; Anal Calcd for C29H35N3O7: C, 64.79; H, 6.56; N, 7.82. Found: C, 64.91; H, 6.50; N, 7.84.

reactant | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.4 mmol, 180 mg | C(C)OC=1C=C(C=CC1OC)[C@@H](CC(NO)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H27N3O6
reactant | 2,2-dimethyl-propionyl chloride | 0.5 mmol, 0.064 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (1 R)-cyclopropanecarboxylic acid {2-[2-(2,2-dimethyl-propionyloxycarbamoyl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 90 mg, 42% yield | CC(C(=O)ONC(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)(C)C | C29H35N3O7
